US09127027B2
Following the procedure applied in the synthesis of analog 25, 1-tert-butyldiphenylsilyloxy-13-(tetrahydro-2H-pyran-2-yloxy)tridec-8-yne (10.0 g, 18.70 mmol) was deprotected with PPTS to give 13-(tert-butyldiphenylsilyloxy)tridec-5-yn-1-ol (7.70 g, 91%) as a colorless syrup. TLC: EtOAc/hexanes (3:7), Rf˜0.43; 1H NMR (300 MHz) δ 7.64-7.68 (m, 4H), 7.34-7.42 (m, 6H), 3.62 (t, J=5.6 Hz, 4H), 2.06-2.22 (m, 4H), 1.50-1.64 (m, 14H), 1.04 (s, 9H); 13C NMR (100 MHz) δ 135.82, 134.37, 129.76, 127.85, 80.93, 80.04, 64.21, 62.63, 32.77, 32.09, 29.33, 29.13, 29.10, 27.14, 25.92, 25.63, 19.47, 19.0, 18.81. HRMS calcd for C29H43O2Si [M+1]+ 451.3032. found 451.3032.

reactant | 1-tert-butyldiphenylsilyloxy-13-(tetrahydro-2H-pyran-2-yloxy)tridec-8-yne | 18.70 mmol, 10.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCCCCC#CCCCCOC1OCCCC1 | C34H50O3Si
reactant | PPTS | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
product | 13-(tert-butyldiphenylsilyloxy)tridec-5-yn-1-ol | 7.70 g, 91% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCCCCC#CCCCCO | C29H42O2Si
